* Z:\mnt\design.r\spice\examples\3150.asc
M§Q1 IN N005 OUT OUT Si4410DY
R1 N005 N004 5
R2 N008 N007 1.5K
C1 N007 0 50p
C2 N008 0 6800p
C3 OUT 0 22µ
R3 N006 0 1020
R4 OUT N006 243
V1 IN 0 1.8
XU1 N002 0 IN 0 N001 0 MP_01 N006 N007 MP_02 N004 IN IN IN 0 N003 LT3150
R5 N003 0 1.37K
R6 N001 N003 6.19K
D1 N002 N001 MBR0520L
C4 N001 0 4.7µ
L1 IN N002 10µ
Rload OUT 0 100
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran .7m startup
.lib LT3150.sub
.backanno
.end
